US06599721B2
1.1 Preparation of racemic 3,3,3-trifluoro-2-hydroxy-2-ethylpropionamide
Concentrated sulfuric acid (15.3 g) was added, under an argon atmosphere, to a 100 ml flask and the starting compound 3,3,3-trifluoro-2-hydroxy-2-ethylpropiononitrile (Fluorchem) (8 g) was then added dropwise. The reaction mixture was heated at 115° C. for 15 min and then cooled down to 8° C.; distilled water (21.8 g) was then added slowly. Diethyl ether was then added and the whole was stirred for 20 min.

reactant | sulfuric acid | 15.3 g | S(O)(O)(=O)=O | H2O4S
reactant | 3,3,3-trifluoro-2-hydroxy-2-ethylpropiononitrile | 8 g | FC(C(C#N)(CC)O)(F)F | C5H6F3NO
reactant | water | 21.8 g | O | H2O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | racemic 3,3,3-trifluoro-2-hydroxy-2-ethylpropionamide | FC(C(C(=O)N)(CC)O)(F)F | C5H8F3NO2
